* Z:\mnt\design.r\spice\examples\1753.asc
L1 N008 OUT 1.3µ
V1 N001 0 5
M§Q1 N008 N009 0 0 Si4410DY
C1 N011 0 150p
C2 N012 0 4700p
R1 N011 N012 15K
R2 N001 N004 1.2K
M§Q2 N001 N006 N008 N008 Si4410DY
R3 N008 N007 20
C3 OUT 0 2700µ x5
C4 N013 0 .02µ
R4 N001 N003 5.6K
R5 N001 N005 5.6K
V2 N002 0 12
C9 OUT 0 .1µ
XU1 N009 N002 0 0 N001 OUT N004 N007 N013 N011 N010 N005 N003 0 0 0 0 0 N001 N006 LTC1753
Rload OUT 0 1
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 3.5m startup
.lib LTC1753.sub
.backanno
.end
